US07947714B2
To a solution of lithium aluminium hydride in diethyl ether (1 M, 1.6 mL) at −78° C. was added a solution of 1′-(propylsulfonyl)-1,4′-bipiperidine-4′-carbonitrile (0.40 g, 1.34 mmol) in diethyl ether (10 mL) over 30 min. The mixture was stirred cold for 1 h then allowed to warm to room temperature and stirred for 2 h. The resultant mixture was cooled in an ice-bath and to the mixture was added water (0.17 mL), 15% NaOH solution (0.17 mL) then water (0.17 mL). The resultant white granular solid was filtered off and the filter-cake rinsed twice with diethyl ether. The filtrate was evaporated to give {[1′-(propylsulfonyl)-1,4′-bipiperidin-4′-yl]methyl}amine as a clear oil which was used in the next step without further purification; m/z (ES+) 304 (M++H).

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1′-(propylsulfonyl)-1,4′-bipiperidine-4′-carbonitrile | 1.34 mmol, 0.40 g | C(CC)S(=O)(=O)N1CCC(CC1)(N1CCCCC1)C#N | C14H25N3O2S
reactant | water | 0.17 mL | O | H2O
reactant | NaOH | 0.17 mL | [OH-].[Na+]
reactant | water | 0.17 mL | O | H2O
solvent | diethyl ether | 1 M, 1.6 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | {[1′-(propylsulfonyl)-1,4′-bipiperidin-4′-yl]methyl}amine | C(CC)S(=O)(=O)N1CCC(CC1)(N1CCCCC1)CN | C14H29N3O2S
